US07148357B2
Production of 2-Bromo-4-hydroxymethyl-pyridine
30.2 ml (295 mmol) of triethylamine is added to 56.5 g (280 mmol) of 2-bromo-isonicotinic acid in 1.2 l of THF. Then, it is cooled to −10° C. and mixed drop by drop with 38.2 ml (295 mmol) of isobutyl chloroformate. After stirring has been continued for one hour at −10° C., it is cooled to −70° C. and mixed drop by drop with 590 ml (590 mmol) of LiAlH4 solution (1 M in THF). After stirring is continued for one hour at −70° C., it is allowed to reach −40° C. 600 ml of 50% acetic acid is added. It is stirred overnight at room temperature. The insoluble components are suctioned off, and the filtrate is concentrated by evaporation. The residue is purified on silica gel with hexane and hexane/ethyl acetate 1:1. 28.0 g of white solidifying oil accumulates.

reactant | triethylamine | 295 mmol, 30.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-isonicotinic acid | 280 mmol, 56.5 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | isobutyl chloroformate | 295 mmol, 38.2 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | LiAlH4 | 590 mmol, 1 M, 590 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1.2 l | C1CCOC1 | C4H8O
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-hydroxymethyl-pyridine | BrC1=NC=CC(=C1)CO | C6H6BrNO
